Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Cipro
 
Attending: ___.
 
Chief Complaint:
Weight loss
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ yo F w/PMHx sx for diabetes, hyperlipidemia, 
atypical chest pain, GERD, and chronic diarrhea who presented to 
the ED today after an evaluation in her PCP's office for 50 lb 
weight loss, fatigue and nausea and vomiting. She has been 
unsteady at home. Patient denies any symptoms currently, 
including fevers, chills, night sweats, nausea, vomiting, 
abdominal pain, diarrhea, dysuria, hematuria, easy bruising or 
bleeding. She states that her diet has changed recently to more 
soups, but denies any difficulty with solids. She denies 
dysphagia, hematochezia, melena. Denies chest pain, SOB, 
fatigue, headache, weakness or numbness. States that she has a 
walker at home but doesn't use it. Denies any problems with her 
memory. States that she is able to grocery shop, take meds, 
bath, cook meals. Denies difficulty with vision or hearing, 
particularly denies blurry or double vision. 

Patient was seen in the ER in ___ for dehydration and a 40 lb 
weight loss. At the time she refused workup and left the ED. She 
was seen prior to that in ___ for hypoglycemia due to her 
oral hypoglycemics for her diabetes. 

In the ED tonight, patient had a CT abdomen performed to 
evaluate for possible malignancy, which was remarkable only for 
a cervical lesion not visualized on pelvic exam. An attempt at 
ambulation was made, and patient was unsteady on her feet, and 
she was admitted. 
 
Past Medical History:
Diabetes
Chronic bronchitis
GERD
Chronic diarrhea
Elevated LFTs
Atypical chest pain
Fibrocystic breasts
Hyperlipidemia
 
Social History:
___
Family History:
NC
 
Physical Exam:
VS: AF, VSS
Gen: Unkempt female in NAD. 
HEENT: MMM. No oral ulcers. Sclera anicteric. No conjunctival 
pallor.
Hrt: RRR. 
Lungs: CTAB no RRW
Abd: soft, nondisteded, obese, +BS 
Ext: no edema 
Neuro/Psych: alert, conversive, disoriented to place/time.  
Sometimes recognizes people.  
She does not ambulate independently, BLE weakness
 
Pertinent Results:
Admission Labs:
138  93  18  114   AGap=22 
 
2.7  26  0.8  
Comments: K: Notified P.___ ___ 

estGFR: 72 / >75 (click for details)  

 83 
11.9  13.1  259 
  
 39.0  
 N:75 Band:0 ___ M:4 E:0 Bas:0 Atyps: 3  
Hypochr: 1+ 
.
UA: Spec ___ >1.050, ___ epithelial cells. 
.
CT abdomen/pelvis: 
1. 1.4 cm soft tissue lesion within the region of the cervical 
canal with fluid within the endometrial canal, abnormal for 
patient in this age group. Further evaluation with direct 
inspection or pelvic ultrasound is recommended.
2. Diverticulosis without evidence of acute diverticulitis.
.

___ 07:35AM BLOOD WBC-11.7* RBC-4.18* Hgb-12.7 Hct-36.7 
MCV-88 MCH-30.4 MCHC-34.7 RDW-17.3* Plt ___
___ 07:35AM BLOOD Neuts-75.0* Lymphs-14.0* Monos-8.0 
Eos-3.0 Baso-0
___ 07:50AM BLOOD Glucose-87 UreaN-11 Creat-0.8 Na-140 
K-3.1* Cl-103 HCO3-25 AnGap-15
___ 01:10PM BLOOD Glucose-101 UreaN-29* Creat-1.7* Na-141 
K-4.4 Cl-104 HCO3-27 AnGap-14
___ 07:05AM BLOOD Glucose-89 UreaN-28* Creat-1.6* Na-143 
K-3.4 Cl-108 HCO3-27 AnGap-11
___ 07:20PM BLOOD UreaN-29* Creat-1.6*
___ 12:56AM BLOOD Glucose-91 UreaN-28* Creat-1.4* Na-145 
K-3.2* Cl-112* HCO3-23 AnGap-13
___ 06:05AM BLOOD ALT-14 AST-31 AlkPhos-78 TotBili-1.1
___ 07:35AM BLOOD Calcium-8.5 Phos-2.9 Mg-2.3
___ 07:35AM BLOOD VitB12-442
___ 06:45AM BLOOD %HbA1c-5.4
___ 01:00PM BLOOD TSH-1.2

___ 8:55 pm URINE     Site: CLEAN CATCH

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      Culture workup discontinued. Further incubation showed 
contamination
      with mixed skin/genital flora. Clinical significance of 
isolate(s)
      uncertain. Interpret with caution. 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         PRESUMPTIVE IDENTIFICATION. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CEFUROXIME------------     2 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN----------   <=4 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=___BDOMEN W/CONTRAST  ___ 5:___BDOMEN W/CONTRAST; CT PELVIS W/CONTRAST
TECHNIQUE: Axial non-contrast MDCT images were obtained from the 
lung bases through the symphysis pubis after administration of 
non-ionic Optiray contrast. Coronal and sagittal reconstructions 
were also obtained.

CT OF THE ABDOMEN WITH IV CONTRAST: The visualized lung bases 
are clear aside from a right-sided fat-containing Bochdalek 
hernia. The liver, gallbladder, spleen and adrenal glands are 
unremarkable. The pancreatic head is fatty replaced, but the 
pancreas is otherwise unremarkable. Small, hypoattenuating areas 
are seen within the left kidney which are not definitively 
characterized but likely represent simple cysts. There is no 
free air, fluid, or significant lymphadenopathy within the 
abdomen. Note is made of separate takeoffs of the splenic artery 
and common hepatic artery from the aorta.

CT OF THE PELVIS WITH IV CONTRAST: There is no free air, fluid, 
or significant lymphadenopathy within the pelvis. Note is made 
of diverticulosis of the sigmoid and descending colon with 
previous surgical suture line likely indicating prior partial 
sigmoid resection. There is no evidence of diverticulitis. Note 
is made of soft tissue fullness within the region of the cervix 
with fluid within the endometrial canal.

BONE WINDOWS: There are no suspicious lytic or sclerotic osseous 
lesions. There are severe degenerative changes within the upper 
lumbar spine, centered around L1/2.

IMPRESSION:
1. 1.4 cm soft tissue lesion within the region of the cervical 
canal with fluid within the endometrial canal, abnormal for 
patient in this age group. Further evaluation with direct 
inspection or pelvic ultrasound is recommended.
2. Diverticulosis without evidence of acute diverticulitis.

PELVIS U.S., TRANSVAGINAL  ___ 8:17 AM

FINDINGS: 
The patient is postmenopausal. Of note, the patient was unable 
to void, and therefore, transvaginal examination images are 
limited for assessment of the uterine body and fundus due to 
distended bladder.

No evidence of hydronephrosis. The uterus measures 8.0 x 3.2 x 
4.3 cm, with a thickened endometrium measuring 1.1 cm. A cluster 
of sub-5-mm anechoic structures is seen in the cervical region, 
all demonstrating well-defined borders, as well as posterior 
through transmission, consistent with multiple nabothian cysts. 
These findings are concordant with the findings from the recent 
CT examination. No discrete adnexal mass is seen, although the 
ovaries are not identified. No pelvic free fluid evident.

IMPRESSION:
1. Multiple nabothian cysts, corresponding to the CT finding.
2. Endometrium is thickened, measuring 1.1 cm. In a 
postmenopausal patient, this can be seen in the setting of 
endometrial hyperplasia and polyps, though malignancy cannot be 
excluded.

CT CHEST W/CONTRAST  ___ 9:00 AM
FINDINGS: There is mild ground-glass opacification in a 
perihilar distribution in the upper lungs, right greater than 
left. a nonspecific finding, probably mild edema or recent 
aspiration. Segmental bronchial wall thickening and areas of 
mucoid impaction in the lower lobe posterior basal segments is 
most likely aspiration related. There are no lung nodules or 
regions of consolidation.

Small caliber of the main bronchi, particularly the right, 
suggests bronchomalacia as well as retained secretions. 

There is no pathologic enlargement of central lymph nodes by 
size criteria and no pleural or pericardial effusion. The study 
is not designed for subdiaphragmatic evaluation except to note 
the absence of adrenal mass or any liver lesions suspicious for 
malignancy. A well-circumscribed spherical protrusion from the 
posterior cortex of the interpolar region of the left kidney 
could be a hemorrhagic cyst, given the attenuation of 22 ___, 
which should be confirmed by ultrasound.

IMPRESSION:
1. No evidence of intrathoracic malignancy or infection.
2. Mild edema or aspiration changes upper lobes. Retained 
secretions in the right main bronchus and lower lobe basal 
segments and segmental bronchial wall thickening in the lower 
lobes most likely due to aspiration as well.
3. Small exophytic left renal hemorrhagic cyst or mass. Suggest 
ultrasound evaluation.

MR HEAD W/O CONTRAST  ___ 8:13 AM

MR OF THE BRAIN WITHOUT IV GADOLINIUM: Please note that this 
study is limited by significant motion artifact. Despite 
administration of intravenous Haldol, the patient had difficulty 
complying with the examination and attempted to remove herself 
from the MR scanner during the examination. Thus, a full 
examination was not completed. Available sequences include 
Sagittal T1-weighted, axial T2, FLAIR, and diffusion-weighted 
images. There is no diffusion abnormality to suggest acute 
infarction. There is no shift of normally midline structures or 
mass effect. No definite mass lesion is seen. No definite 
intracranial hemorrhage is identified, although gradient echo 
images were not obtained. The FLAIR images show periventricular 
FLAIR hyperintensity as well as small scattered white matter 
FLAIR hyperintensities, presumably related to chronic 
microvascular infarction given patient age. There is no 
hydrocephalus.

IMPRESSION: Limited study as described above. No definite 
evidence of infarction or mass lesion.
.
VIDEO OROPHARYNGEAL SWALLOW  ___ 10:32 AM
FINDINGS: During the oral phase of swallowing, bolus formation, 
bolus control, and tongue movements were moderately impaired. 
After the swallow, mild-to-moderate residue was seen in the oral 
cavity and there was premature spillage into the pharynx prior 
to initiation of the pharyngeal swallow. During the pharyngeal 
phase, there is mild-to-moderate delay in initiation of the 
pharyngeal swallow. Once the swallow was started, there was 
normal palatal elevation, epiglottic deflection, and upper 
esophageal sphincter relaxation. After the swallow, no residue 
remained in the valleculae. There was mild penetration during 
swallow with sips of thin liquid. However, there was no 
aspiration seen.

IMPRESSION: Penetration during swallow with sips of thin liquid, 
but no evidence of aspiration during the current study.
.
RENAL U.S.  ___ 9:25 AM
 and compromised by patient factors. Grossly, there is no 
hydronephrosis of the left kidney, but given this limited study, 
characterization of cystic lesion/cyst seen on prior CT scan was 
not possible. Recommend repeat CT study with and without 
contrast in three months.
.
CT CHEST W/CONTRAST  ___ 9:00 AM
FINDINGS: There is mild ground-glass opacification in a 
perihilar distribution in the upper lungs, right greater than 
left. a nonspecific finding, probably mild edema or recent 
aspiration. Segmental bronchial wall thickening and areas of 
mucoid impaction in the lower lobe posterior basal segments is 
most likely aspiration related. There are no lung nodules or 
regions of consolidation.

Small caliber of the main bronchi, particularly the right, 
suggests bronchomalacia as well as retained secretions. 

There is no pathologic enlargement of central lymph nodes by 
size criteria and no pleural or pericardial effusion. The study 
is not designed for subdiaphragmatic evaluation except to note 
the absence of adrenal mass or any liver lesions suspicious for 
malignancy. A well-circumscribed spherical protrusion from the 
posterior cortex of the interpolar region of the left kidney 
could be a hemorrhagic cyst, given the attenuation of 22 ___, 
which should be confirmed by ultrasound.

IMPRESSION:
1. No evidence of intrathoracic malignancy or infection.
2. Mild edema or aspiration changes upper lobes. Retained 
secretions in the right main bronchus and lower lobe basal 
segments and segmental bronchial wall thickening in the lower 
lobes most likely due to aspiration as well.
3. Small exophytic left renal hemorrhagic cyst or mass. Suggest 
ultrasound evaluation.
.
Stool for C. diff (___) - negative

URINE CULTURE (Final ___: 
      ENTEROCOCCUS SP..    >100,000 ORGANISMS/ML.. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS SP.
                             |   
AMPICILLIN------------  =>32 R
LINEZOLID-------------     2 S
NITROFURANTOIN--------   128 R
TETRACYCLINE----------  =>16 R
VANCOMYCIN------------  =>32 R

Discharge Labs:
COMPLETE BLOOD COUNT WBC RBC Hgb Hct MCV MCH MCHC RDW Plt Ct 
___ 07:10AM    8.2 3.89* 12.6 35.4* 91 32.3* 35.5* 14.8 
206 
  DIFFERENTIAL Neuts Bands Lymphs Monos Eos Baso Atyps Metas 
Myelos NRBC 
___ 07:00AM    47.6*   43.5* 5.4 2.8 0.7         
  RED CELL MORPHOLOGY Hypochr Anisocy Poiklo Macrocy Microcy 
Polychr Stipple 
___ 07:05AM    OCCASIONAL 1+ NORMAL 1+ NORMAL OCCASIONAL 
  
  BASIC COAGULATION ___, PTT, PLT, INR) ___ PTT Plt Smr Plt Ct 
___ 
___ 07:10AM          206   
MISCELLANEOUS HEMATOLOGY ESR 
___ 07:10AM    60* 
 
Chemistry 
  RENAL & GLUCOSE Glucose UreaN Creat Na K Cl HCO3 AnGap 
___ 07:10AM    ___ 135 4.4 ___ 
   ENZYMES & BILIRUBIN ALT AST LD(LDH) CK(CPK) AlkPhos Amylase 
TotBili DirBili 
___ 11:00AM    ___   86   0.5   
OTHER ENZYMES & BILIRUBINS Lipase 
___ 07:05AM    11 
HEMOLYZED SLIGHTLY 
  CHEMISTRY TotProt Albumin Globuln Calcium Phos Mg UricAcd Iron 

___ 07:10AM          8.8 3.0 1.8     
  HEMATOLOGIC calTIBC VitB12 Ferritn TRF 
___:55AM    116*   321* 89* 
DIABETES MONITORING %HbA1c 
___ 06:45AM    5.41 
OTHER CHEMISTRY Ammonia 
___ 11:00AM    34 
PITUITARY ___ 
___ 01:00PM    1.2 
IMMUNOLOGY CRP 
___ 07:10AM    9.9*1 
1 LOW RISK <1.0, AVERAGE RISK 1.0-3.0, HIGH RISK >3.0 (BUT <10) 
PROTEIN AND IMMUNOELECTROPHORESIS PEP IgG IgA IgM 
___ 06:55AM    POLYCLONAL1 1535 731* 57 
 
GASTROINTESTINAL tTG-IgA 
___ 07:10AM    61 
1 NEGATIVE <20, BORDERLINE ___, POSITIVE >___/P: Ms. ___ is a ___ yo F w/PMHx sx for atypical chest pain, 
chronic diarrhea, and diabetes who presents with nausea, 
unintentional weight loss, and failure to thrive. 
.
#VRE urine colonization -- no antibiotics at this time.
.
#altered mental status:  Initially attributed to infection, as 
urine was positive.  Treated with ciprofloxacin for 
pan-sensitive UTI with full course.  CT head was unremarkable.  
Ms. ___ improved gradually, but did not return to a person 
who could be entirely independent at home.  It is suspected she 
had cognitive decline that went unnoticed by her family, and her 
acute illness further impacted her orientation/cognition.  None 
of her family members had visited her at home in the last three 
or more months prior to admission.  Her sister felt she was 
"near herself" over the phone, although Ms. ___ remained 
quite disoriented.  Dementia workup negative including b12, 
folate, RPR.  MR head did show some chronic microvascular 
changes.  She had protracted delerium that was slow to improve.  
On ___, psychiatry, neurology, and geriatrics were all consulted 
for assistance.  Ultimately, pt. found to have proteus UTI, and 
with treatement, she began to show marked improvement.  However, 
she still displayed labile mood and confusion as well as mental 
status consistent with dementia.  
.
Neuro was re-consulted and geriatrics consulted as a final 
effort to re-evaluate for any potential reversible causes of her 
mental status, but neuro believed again that there was no 
indication for LP and geriatrics believed after re-review that 
the patient had been fully evaluated.  Plans for an outpatient 
LP under conscious sedation were arranged by the geriatrics 
service ___ weeks after discharge.  Geriatrics made helpful care 
recommendations to help minimize the patient's agitation 
including olanzapine 2.5mg po daily PRN agitation.  Guardianship 
is being pursued by the hospital.
.
#. Nausea, diarrhea and weight loss. Concerning for malignancy 
esp given smoking hx, however differential includes ischemia, 
gastroparesis ___ diabetes, hyperthyroidism, and/or occult 
infection. Patient has a history of GERD, no hx of endoscopy. 
She was also not up to date on cancer screening. Some of her 
symptoms improved with treatment of the UTI, however diarrhea 
remained intermittent.  CT abdomen unremarkable except for small 
cervical lesion, which was further evaluated on vaginal U/S.  
She did have some vaginal bleeding, therefore Ob/Gyn was 
consulted.  Unfortunately patient did not comply with exam.  
Endometrial biopsy will likely need to be performed as an 
outpatient in the near future.  She was also found to have a 
question of a renal mass versus cyst seen on CT scan. This will 
need to be followed up with a 3-month CT scan (she did not 
comply with a renal U/S).  Chest CT did not show any masses.  
Mammogram will need to be performed as outpatient as well. On 
___ - in work up of diarrhea, metformin was stopped.  Diarrhea 
initially abated and then returned.  Patient underwent EGD and 
colonoscopy that revealed eosphagitis, gastritis and doudenitis 
with polyps in sigmoid colonn that underwent polypectomy but no 
etiology discovered for diarrhea.  
.
#. Diabetes mellitus -- well controlled on sliding scale, 
glucose values <130 at all times in last week.  HgA1c 5.4%.  
Outpatient Metformin stopped/restarted, but eventially 
completely dicontinued due to diarrhea.  Currently doing well 
without metformin or sliding scale humalog.  Accuchecks may be 
monitored per house rehab/___ physician.
.
#. Hyperlipidemia. 
Continued on statin. 
.
# urinary retention -- Noted to have increased Crt on routine 
labs ___.  Exam was difficult ___ abdominal obesity, but some 
sense of distended bladder.  Given incontinence, she was 
straight cathed for urine studies, and incidentally had a large 
volume of retained urine.  A foley was placed.  There was no 
evidence of recurrent infection.  No culprit medications.  Renal 
function returned back to baseline.  Foley d/c'd on ___ and pt. 
voiding although largely incontinent.  She does require straight 
catheterization for rentention three times daily.
.
# Rash
She developed difuse, erythematous macular rash coalescing into 
patches.  Was seen by dermatology and this was thought to be a 
drug rash, possibly due to Cipro or Simvastatin.  She was 
treated with Triamcinolone to the body and Westcort to the face 
with improvement in the rash.  She had an eosinophilia that was 
thought to be due to this.  Resolved prior to discharge.  
.
# Leukocytosis/Rhonchi on lung exam
Given these findings and somewhat limited chest x-ray, she 
underwent a chest CT.  This showed findings that could be c/w 
aspiration, however no discrete consolidation.  She was 
restarted on Cipro along with Flagyl on ___.  She will be 
monitored for any worsening of the drug rash - the rash appeared 
to worsen on ___, so all abx. stop after cxr revealed no 
evidence of pneumonia.
.
# social -- Elder services was contacted, and guardianship was 
pursued given question of chronic cognitive decline with acute 
delerium and inability to care for self.  Guardianship will 
continue to be pursued through the ___ legal department after 
transfer to ___.  Paperwork updated for discharge.
.
# Lt. second finger paronychia - noted to have acute paronychia 
and abscess of the lt. ___ finger.  Plastics was consulted and 
performed I and D with subsequent resolution of paronychia.

Discharged to ___ of ___.
 
Medications on Admission:
Pantoprazole
Simvastatin
Tramadol
 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain.  
2. Camphor-Menthol 0.5-0.5 % Lotion Sig: One (1) Appl Topical 
QID (4 times a day) as needed for pruritus.  
3. Cyanocobalamin 500 mcg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
4. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO BID (2 times a day).  
5. Olanzapine 5 mg Tablet, Rapid Dissolve Sig: 0.5 Tablet, Rapid 
Dissolve PO DAILY (Daily) as needed for agitation.  
6. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
7. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. Hexavitamin     Tablet Sig: One (1) Cap PO DAILY (Daily).  
9. Loperamide 2 mg Capsule Sig: One (1) Capsule PO QID (4 times 
a day) as needed for diarrhea.  
10. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: 290.3 SENILE DEMENTIA WITH DELIRIUM 
Secondary: 788.20 URINARY RETENTION 
Secondary: 250.82 DIABETES TYPE II, UNCONTROLLED W/ 
COMPLICATIONS 
Secondary: 530.11 GASTROESOPHAGEAL REFLUX DISEASE (GERD) 
Secondary: 272.4 HYPERLIPIDEMIA 
Secondary: 782.1 RASH, NOS 
Secondary: 507.0 PNEUMONIA, ASPIRATION 

 
Discharge Condition:
Vital Signs Stable

Alert to person only.  Cooperative with care  but has difficulty 
following commands.  Occasionally more lethargic in the morning 
after night dose of olanzapine.  Sleeping intermittantly 
throughout the day.  Needs assistance with all ADLs and feeding. 
 Out of bed to chair with lift.

 
Discharge Instructions:
Return to ED if having fevers, vomiting, chills, sweats.

 
Followup Instructions:
___